US04345934
Methyl 1-(4-Chlorophenyl)-1,4-dihydro-4-oxo-6-n-butylpyridazine-3-carboxylate
To 25 ml of methanol, cooled to -5° C., there is added 2.38 g (0.02 mol) of thionyl chloride. To the ice cooled solution is added 2.85 g (0.0093 mol) of the mixture of 1-(4-chlorophenyl)-1,4-dihydro-4-oxo-5-n-propyl-6-methyl pyridazine-3-carboxylic Acid and 1-(4-chlorophenyl)-1,4-dihydro-4-oxo-6-n-butyl pyridazine-3-carboxylic Acid dissolved in 25 ml of methanol. The solution is stirred at 0° C. for 1/2 hr. and at room temperature for 18 hrs. To the solution is added 250 ml of water and the oil suspension formed is stirred at room temperature for 1 hr. The suspension is extracted with 3 (100 ml) portions of methylene dichloride and the extract is dried over magnesium sulfate and concentrated in vacuo to afford 2.9 g of mixed products (oil). The mixture is separated using a silica gel dry column and ethyl acetate as eluent to afford 0.5 g (17% yield of example 30 (oil) and 0.5 g (17% yield) of example 29 (semi-solid).

reactant | thionyl chloride | 0.02 mol, 2.38 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(4-chlorophenyl)-1,4-dihydro-4-oxo-5-n-propyl-6-methyl pyridazine-3-carboxylic Acid | ClC1=CC=C(C=C1)N1N=C(C(C(=C1C)CCC)=O)C(=O)O | C15H15ClN2O3
reactant | 1-(4-chlorophenyl)-1,4-dihydro-4-oxo-6-n-butyl pyridazine-3-carboxylic Acid | ClC1=CC=C(C=C1)N1N=C(C(C=C1CCCC)=O)C(=O)O | C15H15ClN2O3
reactant | water | 250 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | Methyl 1-(4-Chlorophenyl)-1,4-dihydro-4-oxo-6-n-butylpyridazine-3-carboxylate | 2.9 g | ClC1=CC=C(C=C1)N1N=C(C(C=C1CCCC)=O)C(=O)OC | C16H17ClN2O3
